US05082852
N-{2-[4-(6-chloropyridin-2-yloxy)-phenoxy]-eth-1-yl}-cyclopropanecarboxamide
At room temperature, 1.1 g of triethylamine and then 1.0 g of cyclopropanecarboxylic acid chloride are dripped into 2.6 g of 2-[4-(6-chloropyridin-2-yloxy)-phenoxy]-ethylamine in 50 cm3 of dichloromethane. The reaction is slightly exothermic. The mixture is stirred at room temperature for 14 hours.

reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarboxylic acid chloride | 1.0 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2-[4-(6-chloropyridin-2-yloxy)-phenoxy]-ethylamine | 2.6 g | ClC1=CC=CC(=N1)OC1=CC=C(OCCN)C=C1 | C13H13ClN2O2
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | N-{2-[4-(6-chloropyridin-2-yloxy)-phenoxy]-eth-1-yl}-cyclopropanecarboxamide | ClC1=CC=CC(=N1)OC1=CC=C(OCCNC(=O)C2CC2)C=C1 | C17H17ClN2O3
